US04109087
(a) 4-Hydroxypyrimido[1,2-a]benzimidazole-3-carboxylic acid, ethyl ester
266 g. of 2-aminobenzimidazole (2 mol.) and 432 g. of ethoxymethylene malonic acid diethyl ester are heated with stirring in 3 liters of DMF at 80° for 3 hours. The solution is cooled to room temperature and then filtered off and the crystalline 4-hydroxypyrimido[1,2-a]-benzimidazole-3-carboxylic acid, ethyl ester is recrystallized from acetic acid, yield 490 g. (95%); m.p. 309°-310°.

reactant | 2-aminobenzimidazole | 2 mol | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | ethoxymethylene malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
solvent | DMF | 3 liters | CN(C)C=O | C3H7NO
product | 4-Hydroxypyrimido[1,2-a]benzimidazole-3-carboxylic acid, ethyl ester | OC1=C(C=NC2=NC3=C(N21)C=CC=C3)C(=O)OCC | C13H11N3O3
